US05552404
N-Cyclopropylaniline was prepared via the Barton approach for arylation of amines (Barton, D. H.; Finet, J-P.; Khamsi. J. Tetrahedron Lett. 1987, 28 887). Cyclopropylamine (1.0 g, 17.5 mmol.) was added to triphenylbismuth (9.25 g, 21.0 mmol.) and cupric acetate (1.6 g, 8.75 mmol) in dichloromethane (30 mL) at room temperature under nitrogen. The mixture was stirred for 18 hours, filtered over a short plug of celite to remove any insoluble material, and purified by chromatography on a silica gel column (4 cm×10 cm) using hexane/ethyl acetate (95/5) for elution. The fraction containing the desired product was stripped of all volatiles under vacuum to yield N-cyclopropylaniline (0.8 g). NMR (200 MHz, DMSO-d6): δ0.37 (m, 2H); 0.68 (m, 2H); 2.30 (m, 1H); 6.03 (br s, 1H); 6.56 (t, J=7.4 Hz, 1H); 6.70 (d, J=8.2 Hz, 2H); 7.09 (t, J=7.8 Hz, 2H)

reactant | Cyclopropylamine | 17.5 mmol, 1.0 g | C1(CC1)N | C3H7N
reactant | triphenylbismuth | 21.0 mmol, 9.25 g | C1(=CC=CC=C1)[Bi](C1=CC=CC=C1)C1=CC=CC=C1
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-cyclopropylaniline | 0.8 g | C1(CC1)NC1=CC=CC=C1 | C9H11N
